US04367238
Ozone gas was introduced into a solution of 2-chlorophenyl 2-methoxy-3-(1-propenyl)phenyl ether (17.60 g) in a mixture of ethyl acetate (120 ml) and acetic acid (5 ml) at 5° C. for an hour. Thereafter, nitrogen gas was introduced to the reaction mixture to remove the excess of ozone gas, and then dimethyl thioether was added thereto. The mixture was washed with aqueous solution of sodium bicarbonate and water successively, dried over magnesium sulfate and then evaporated. The oily residue was dissolved in diethyl ether, washed with an aqueous solution of sodium bicarbonate, dried and then evaporated to give oily 2-methoxy-3-(2-chlorophenoxy)benzaldehyde (7.0 g).

reactant | Ozone | O=[O+][O-] | O3
reactant | 2-chlorophenyl 2-methoxy-3-(1-propenyl)phenyl ether | 17.60 g | COC1=C(C=CC=C1C=CC)OC1=C(C=CC=C1)Cl | C16H15ClO2
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-methoxy-3-(2-chlorophenoxy)benzaldehyde | 7.0 g | COC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)Cl | C14H11ClO3
